US07615568B2
A. 1-t-Butoxycarbonyl-3-hydroxymethylpiperidine
Using a procedure analogous to Example 1-C (K2CO3, acetone), 3-hydroxymethylpiperidine gave the title compound as a solid (34.2 g, 88%).

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-hydroxymethylpiperidine | OCC1CNCCC1 | C6H13NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-t-Butoxycarbonyl-3-hydroxymethylpiperidine | 34.2 g, 88% | C(C)(C)(C)OC(=O)N1CC(CCC1)CO | C11H21NO3
